US05726205
trans-O-(4-Chlorophenylacetyl)-4-(4-dimethylaminomethylphenyl)-cyclohexanol-hydrochloride
A solution of 0.39 g (0.001 mol) of trans-O-(4-chlorophenylacetyl)-4-(4-dimethylaminomethylphenyl)-cyclohexanol in 10 ml of diethyl ether is combined at ambient temperature, with stirring, with a 1.5 times equimolar amount of hydrogen chloride in isopropanol added dropwise. The precipitate formed is left for 1 hour at ambient temperature, suction filtered, washed repeatedly with diethyl ether and dried. White crystals are obtained, melting point 231°-233° C.

reactant | trans-O-(4-chlorophenylacetyl)-4-(4-dimethylaminomethylphenyl)-cyclohexanol | 0.001 mol, 0.39 g | ClC1=CC=C(C=C1)CC(=O)O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CN(C)C | C23H28ClNO2
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | isopropanol | C(C)(C)O | C3H8O
product | trans-O-(4-Chlorophenylacetyl)-4-(4-dimethylaminomethylphenyl)-cyclohexanol-hydrochloride | Cl.ClC1=CC=C(C=C1)CC(=O)O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CN(C)C | InChI=1S/C23H28ClNO2.ClH/c1-25(2)16-18-3-7-19(8-4-18)20-9-13-22(14-10-20)27-23(26)15-17-5-11-21(24)12-6-17;/h3-8,11-12,20,22H,9-10,13-16H2,1-2H3;1H/t20-,22-;
